US08541429B2
Step 1. 6-[(dimethylamino)methylene]-2-ethoxycyclohex-2-en-1-one
3.4 g (0.02 mmol) of 2-ethoxycyclohex-2-en-1-one were dissolved in 30 mL of dry dimethylformamide and 30 mL (0.05 mmol) of dimethylformamide dimethyl acetale were added. The solution was stirred at 60° C. for 2 hours. The solvent was then evaporated under vacuum, the residue triturated with diethyl ether and collected by filtration to give 6.6 g of the title compound (80% yield).

reactant | 2-ethoxycyclohex-2-en-1-one | 0.02 mmol, 3.4 g | C(C)OC=1C(CCCC1)=O | C8H12O2
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 6-[(dimethylamino)methylene]-2-ethoxycyclohex-2-en-1-one | 6.6 g, 80% yield | CN(C)C=C1CCC=C(C1=O)OCC | C11H17NO2
